2181-10-18 09:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   weaning vent with hope of extubating today though looking poor
   currently on PSV 5/5
 RSBIs in 200
   24 Hour Events:
 SPUTUM CULTURE - At [**2181-10-17**] 10:35 PM
 URINE CULTURE - At [**2181-10-17**] 10:35 PM
 NASAL SWAB - At [**2181-10-17**] 10:35 PM
   History obtained from housestaff
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-18**] 06:01 AM
   Metoprolol - [**2181-10-18**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-18**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 106 (80 - 106) bpm
   BP: 161/54(77) {97/29(48) - 161/88(95)} mmHg
   RR: 34 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                     27 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                     27 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    605 mL
   Urine:
                                                                    125 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 237 (237 - 285) mL
   PS : 0 cmH2O
   RR (Set): 0
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/46/146/32/11
   Ve: 8 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs clear anteriorly
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Responds to commands
   Labs / Radiology
   8.3 g/dL
   209 K/uL
   117 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.3 mEq/L
   17 mg/dL
   101 mEq/L
   141 mEq/L
   25.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2181-10-17**]  06:00 PM
                             [**2181-10-17**]  06:44 PM
                             [**2181-10-17**]  10:21 PM
                             [**2181-10-18**]  03:03 AM
   WBC
   10.1
   9.3
   Hct
   27.0
   25.1
   Plt
   221
   209
   Cr
   1.2
   1.0
   TropT
   0.13
   0.11
   TCO2
   34
   36
   Glucose
   113
   117
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Imaging: CXR - stable right effusions, likely layering effusions on
   left
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 follow Hct
   closely
 RESPIRATORY FAILURE
 likely related to effusions, pulm edema
 will
   continue to diurese, rate control and afterload reduce
   Elevated cardiac enzymes
 will stop pursuing
   Total time spent: 36 minutes
   Patient is critically ill

2181-10-18 09:06:00 Physician Attending Progress Note
Chief Complaint: SOB, pulmonary edema, diastolic heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 SPUTUM CULTURE - At [**2181-10-17**] 10:35 PM
 URINE CULTURE - At [**2181-10-17**] 10:35 PM
 NASAL SWAB - At [**2181-10-17**] 10:35 PM
   Admitted.
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-18**] 06:01 AM
   Metoprolol - [**2181-10-18**] 08:25 AM
   Other medications:
   mag 2g, propofol, colace, chlorhexidine, prevacid, bisdcodyl, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-18**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 106 (80 - 106) bpm
   BP: 161/54(77) {97/29(48) - 161/88(95)} mmHg
   RR: 34 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                     27 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                     27 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    605 mL
   Urine:
                                                                    125 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -98 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 237 (237 - 285) mL
   PS : 0 cmH2O
   RR (Set): 0
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.49/46/146/32/11
   Ve: 8 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: No(t) No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   209 K/uL
   117 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.3 mEq/L
   17 mg/dL
   101 mEq/L
   141 mEq/L
   25.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2181-10-17**]  06:00 PM
                             [**2181-10-17**]  06:44 PM
                             [**2181-10-17**]  10:21 PM
                             [**2181-10-18**]  03:03 AM
   WBC
   10.1
   9.3
   Hct
   27.0
   25.1
   Plt
   221
   209
   Cr
   1.2
   1.0
   TropT
   0.13
   0.11
   TCO2
   34
   36
   Glucose
   113
   117
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Imaging: CXR wiht persistent right sided effusion, and layering left
   sided effusion.
   Microbiology: sputum with polymicrobial gram stain
   Assessment and Plan
 .H/O PULMONARY EDEMA:
   Continue diuresis, place NG tube restart antihypertensives (start with
   bblocker +/- nitrates), to reduce afterload, will hold off on Echo for
   now, trend cardiac enzymes.
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):
   follow hematocrit
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]);
   see pulmonary edema.
elevated troponin: likely demand, recheck EKG and trend enzymes.
 Goals of care will clarify with the family today
   ICU Care
   Nutrition:
   Comments: place NG tube, start tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-10-17**] 05:40 PM
   18 Gauge - [**2181-10-17**] 05:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-10-19 12:07:00 Physician Attending Progress Note
Chief Complaint: Pulmonary edema, diastolic heart failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   SBT ABG 7.46/48/198.
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-18**] 02:08 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-10-19**] 10:04 AM
   Furosemide (Lasix) - [**2181-10-19**] 10:04 AM
   Other medications:
   colace, ISS, chlorhexidine, lansoprazoe, lopressor, hepari s/c,
   ciprofloxacin, lasix, isosorbide 30.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-19**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (65 - 84) bpm
   BP: 167/43(76) {100/24(47) - 167/70(77)} mmHg
   RR: 25 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,190 mL
                                                                    290 mL
   PO:
             TF:
                                                                     40 mL
                                                                    104 mL
   IVF:
                                                                    900 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    753 mL
   Urine:
                                                                  1,440 mL
                                                                    668 mL
   NG:
                                                                     60 mL
                                                                     85 mL
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 321 (168 - 397) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 225
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.46/48/110/33/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   192 K/uL
   116 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.5 mEq/L
   15 mg/dL
   100 mEq/L
   141 mEq/L
   27.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2181-10-17**]  06:00 PM
                             [**2181-10-17**]  06:44 PM
                             [**2181-10-17**]  10:21 PM
                             [**2181-10-18**]  03:03 AM
                             [**2181-10-18**]  04:12 PM
                             [**2181-10-18**]  11:22 PM
                             [**2181-10-19**]  05:10 AM
                             [**2181-10-19**]  06:52 AM
                             [**2181-10-19**]  09:02 AM
   WBC
   10.1
   9.3
   9.4
   Hct
   27.0
   25.1
   27.0
   Plt
   221
   209
   192
   Cr
   1.2
   1.0
   0.9
   0.9
   TropT
   0.13
   0.11
   TCO2
   34
   36
   36
   37
   35
   Glucose
   113
   117
   105
   116
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Imaging: CXR moderate bilateral pleural effusion
   Microbiology: sputum culture negative to date
   Assessment and Plan
 .H/O PULMONARY EDEMA:
   Continue lasix redose with 40mg, titrate up bblocker, and add ACE as BP
   allows.
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB);
   hct stable currently
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   passed SBT this am. will plan to extubate to CPAP.
UTI: f/u outside hospital culture data, on ciprofloxacin.
   ICU Care
   Nutrition:
   Comments: TF on hold pending extubation
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-10-18**] 05:20 PM
   22 Gauge - [**2181-10-18**] 07:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Stable on vent. Underwent 1 hour SBT on PSV 0/5 and RSBI was borderline
   at the end at 100 though ABG looked very good. She is awake and
   interactive.
   Exam notable for
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 84 (65 - 84) bpm
   BP: 167/43(76) {100/24(47) - 167/70(77)} mmHg
   RR: 25 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,190 mL
                                                                    290 mL
   PO:
             TF:
                                                                     40 mL
                                                                    104 mL
   IVF:
                                                                    900 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    753 mL
   Urine:
                                                                  1,440 mL
                                                                    668 mL
   NG:
                                                                     60 mL
                                                                     85 mL
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 321 (168 - 397) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 225
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.46/48/110/33/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 275
   Intubated, awake, following commands
   Neck supple
   Hrt rrr
   Lungs decreased breath sounds
   Abd benign
   Extreme no edema
   Labs reviewed and recorded above
   Imaging: CXR persistent bilateral effusions
   Problems: resp failure, effusions, CHF
   Agree with plan to diuresed a bit further, control BP and HR, extubate
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2181-10-19**] 12:57 ------

2181-10-20 07:38:00 Physician Resident Progress Note
24 Hour Events:
   - extubated, and initially tolerated extubation, though progressively
   developed flash pulmonary edema requiring nitroglycerin gtt, labetolol
   bolus +gtt. She was bolused 40mg IV lasix, then another 80mg IV lasix
   and started on lasix gtt. Diuril was added.
   - Nitro and labetolol were later weaned. During this, she was placed on
   bipap.
   - family met and  updated; were at bedside during most of the evening.
   - lisinopril was restarted
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendMetronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-19**] 03:44 PM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-10-19**] 10:04 AM
   Hydralazine - [**2181-10-19**] 04:20 PM
   Labetalol - [**2181-10-19**] 04:23 PM
   Metoprolol - [**2181-10-19**] 04:52 PM
   Furosemide (Lasix) - [**2181-10-19**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, Dyspnea
   Flowsheet Data as of  [**2181-10-20**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 80 (73 - 95) bpm
   BP: 118/31(53) {86/23(38) - 193/86(96)} mmHg
   RR: 24 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    809 mL
                                                                     72 mL
   PO:
             TF:
                                                                    104 mL
   IVF:
                                                                    584 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,228 mL
                                                                  1,025 mL
   Urine:
                                                                  2,143 mL
                                                                  1,025 mL
   NG:
                                                                     85 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                   -953 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 301) mL
   Vt (Spontaneous): 561 (306 - 561) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/48/110/36/8
   Ve: 3.7 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Gen: sitting up, in bed
   HEENT: eomi, perrl, anicteric
   CV: RRR
   Pulm: rhoncherus, bilateral with decreased BS at bases
   ABD: NDNT, soft
   Labs / Radiology
   222 K/uL
   8.9 g/dL
   133 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.6 mEq/L
   20 mg/dL
   95 mEq/L
   141 mEq/L
   27.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2181-10-17**]  06:44 PM
                             [**2181-10-17**]  10:21 PM
                             [**2181-10-18**]  03:03 AM
                             [**2181-10-18**]  04:12 PM
                             [**2181-10-18**]  11:22 PM
                             [**2181-10-19**]  05:10 AM
                             [**2181-10-19**]  06:52 AM
                             [**2181-10-19**]  09:02 AM
                             [**2181-10-19**]  04:57 PM
                             [**2181-10-20**]  04:38 AM
   WBC
   9.3
   9.4
   7.5
   Hct
   25.1
   27.0
   27.7
   Plt
   [**Telephone/Fax (3) 8443**]
   Cr
   1.0
   0.9
   0.9
   0.9
   1.1
   TropT
   0.11
   TCO2
   34
   36
   36
   37
   35
   Glucose
   117
   105
   116
   124
   133
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.8 mg/dL
   Microbiology: OSH Urine Cx with mixed gram positive cocci, flora >100K
   GRAM STAIN (Final [**2181-10-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   [**Age over 90 **] y.o. F with diastolic CHF (EF 55% on [**9-2**] echo), recent PE on
   [**2-/2181**], recent GI bleeding attributed to colon diverticuli seen on
   colonoscopy during recent [**Hospital1 1**] hospitalization in [**2181-9-25**],
   transferred from OSH ([**Hospital1 632**]) with respiratory failure attributed to
   flash pulmonary edema.
   # Respiratory Failure: Extubated, but developed flash pulmonary edema.
   Managed with furosemide gtt and BP reduction. Now off labetalol and
   lasix gtt
   - Bipap backup support
   - continue NC
   - d/c lasix gtt today, aim for I/O -2 L, [**Hospital1 **] lytes
   - hold ACE-I for now given BP
 can restart at SBP 110-120s with
   captopril
   - restart lopressor IV  once BP improves and goal HR 80s
   # Leukocytosis: Trending up at OSH, already received Vancomycin and
   Zosyn for broad coverage. Pt with + UTI from OSH. Never febrile per
   report.
   - trend WBC
   - f/u UCx, c. diff, sputum culture
   - f/u on OSH blood cultures
   - culture if spikes
   - d/c cipro today
   # CAD:
   - continue beta blocker
   - restart aspirin and statin
   # Hypertension: Was hypotensive in setting of diuresis by report at
   OSH.
   - uptitrate lopressor to home dose
   - add lisinopril as tolerated
   # Hyperlipidemia: restart atorvastatin
   # Hypothyroidism: restart levothyroxiine
   # Urinary Incontinence: hold tolterodine while Foley
   ICU Care
   Nutrition: Cardiac healthy
   Glycemic Control:  sliding scale
   Lines:
   22 Gauge - [**2181-10-19**] 10:25 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU today

2181-10-20 08:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-10-19**] 02:49 PM
   Info aquired from flow sheet
   > Flash pulm edema (BP 200/-- mmHg), with good response to lasix gtt,
   BiPAP which stopped at about 7AM. Off labetalol and nitro drip. Still
   on lasix gtt.
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-19**] 03:44 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-10-19**] 10:04 AM
   Hydralazine - [**2181-10-19**] 04:20 PM
   Labetalol - [**2181-10-19**] 04:23 PM
   Metoprolol - [**2181-10-19**] 04:52 PM
   Furosemide (Lasix) - [**2181-10-19**] 08:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-20**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 75 (73 - 95) bpm
   BP: 101/25(43) {86/23(38) - 193/86(96)} mmHg
   RR: 23 (15 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    809 mL
                                                                     83 mL
   PO:
             TF:
                                                                    104 mL
   IVF:
                                                                    584 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  2,228 mL
                                                                  1,025 mL
   Urine:
                                                                  2,143 mL
                                                                  1,025 mL
   NG:
                                                                     85 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                   -942 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 301) mL
   Vt (Spontaneous): 561 (306 - 561) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.46/48/110/36/8
   Ve: 3.7 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds:  lower lobe Crackles : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   222 K/uL
   133 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.6 mEq/L
   20 mg/dL
   95 mEq/L
   141 mEq/L
   27.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2181-10-17**]  06:44 PM
                             [**2181-10-17**]  10:21 PM
                             [**2181-10-18**]  03:03 AM
                             [**2181-10-18**]  04:12 PM
                             [**2181-10-18**]  11:22 PM
                             [**2181-10-19**]  05:10 AM
                             [**2181-10-19**]  06:52 AM
                             [**2181-10-19**]  09:02 AM
                             [**2181-10-19**]  04:57 PM
                             [**2181-10-20**]  04:38 AM
   WBC
   9.3
   9.4
   7.5
   Hct
   25.1
   27.0
   27.7
   Plt
   [**Telephone/Fax (3) 8443**]
   Cr
   1.0
   0.9
   0.9
   0.9
   1.1
   TropT
   0.11
   TCO2
   34
   36
   36
   37
   35
   Glucose
   117
   105
   116
   124
   133
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.8 mg/dL
[**2181-10-17**] 10:29 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2181-10-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
   Assessment and Plan
 .H/O PULMONARY EDEMA [**2-26**] Diastolic dysfunction:
   Change from lasix gtt to IV prn goal -500 cc (as BP tolerates), she is
   already negative 1L
   -PO beta blocker (goal HR < 90, she is on a large dose as an out
   patient)  and afterload reduction (add back ACE inhibitor captopril to
   allow for dynamic titration)
   - NIPVV as a back
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB);
   hct stable currently
UTI: f/u outside hospital culture data, on ciprofloxacin (course
   completed), stopping [**2181-10-20**]
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2181-10-19**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2181-10-21 07:55:00 Physician Resident Progress Note
24 Hour Events:
 STOOL CULTURE - At [**2181-10-21**] 04:00 AM
   - d/c'ed cipro after completing UTI treatment
   - lasix gtt stopped
   - I/O -1 L without any intervention
   - started captopril 6.25 mg po TID, metoprolol 12.5 mg po BID
   - d/c imdur for now
   - emailed [**Doctor Last Name **], her cardiologist
   - has bed at rehab
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-19**] 03:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-21**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 79 (74 - 87) bpm
   BP: 100/24(42) {98/22(42) - 127/91(97)} mmHg
   RR: 26 (19 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                    269 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    195 mL
   Urine:
                                                                  1,465 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   RR (Spontaneous): 25
   FiO2: 40%
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   Gen: sitting up, in bed
   HEENT: eomi, perrl, anicteric
   CV: RRR
   Pulm: rhoncherus, bilateral with decreased BS at bases
   ABD: NDNT, soft
   Labs / Radiology
   262 K/uL
   8.6 g/dL
   119 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.7 mEq/L
   27 mg/dL
   93 mEq/L
   141 mEq/L
   26.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2181-10-18**]  03:03 AM
                             [**2181-10-18**]  04:12 PM
                             [**2181-10-18**]  11:22 PM
                             [**2181-10-19**]  05:10 AM
                             [**2181-10-19**]  06:52 AM
                             [**2181-10-19**]  09:02 AM
                             [**2181-10-19**]  04:57 PM
                             [**2181-10-20**]  04:38 AM
                             [**2181-10-20**]  04:36 PM
                             [**2181-10-21**]  04:21 AM
   WBC
   9.3
   9.4
   7.5
   7.9
   Hct
   25.1
   27.0
   27.7
   26.5
   Plt
   [**Telephone/Fax (3) 8455**]62
   Cr
   1.0
   0.9
   0.9
   0.9
   1.1
   1.1
   1.0
   TropT
   0.11
   TCO2
   36
   37
   35
   Glucose
   117
   105
   116
   124
   133
   119
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.8 mg/dL
   [**10-17**] Ucx: pending
[**2181-10-17**] 10:29 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
                            **FINAL REPORT [**2181-10-20**]**
   GRAM STAIN (Final [**2181-10-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2181-10-20**]):
      SPARSE GROWTH Commensal Respiratory Flora.
   Assessment and Plan
   [**Age over 90 **] y.o. F with diastolic CHF (EF 55% on [**9-2**] echo), recent PE on
   [**2-/2181**], recent GI bleeding attributed to colon diverticuli seen on
   colonoscopy during recent [**Hospital1 1**] hospitalization in [**2181-9-25**],
   transferred from OSH ([**Hospital1 632**]) with respiratory failure attributed to
   flash pulmonary edema.
   # Diastolic Heart Failure: Continues to put out without lasix with
   blood pressure stable
   - monitor and consider restarting home lasix in am
   - uptitrate captopril today
   - consider uptitration of beta blocker also
   - f/u with her cardiologist, Dr. [**Last Name (STitle) **]
   - IV lasix prn if not -1 L
   # Respiratory Failure: Extubated, but developed flash pulmonary edema
   s/p intubation on Friday. Managed with furosemide gtt and BP reduction.
   Now off labetalol and lasix gtt.
   - Bipap backup support
   - continue NC
   - continue to watch I/O, if not -1 L, would use IV lasix 40
   - continue to maximize cardiac status with HR 70-80 and SBP 110s
   # Leukocytosis: Trending up at OSH, already received Vancomycin and
   Zosyn for broad coverage. Pt with + UTI from OSH. Never febrile per
   report. s/p cipro x 3 days for uti.
   - trend WBC
   - f/u UCx, c. diff, sputum culture
   - f/u on OSH blood cultures
   - culture if spikes
   -d/c foley
   # CAD:  BP well controlled
   - continue beta blocker
   - continue aspirin and statin
   # Hypertension: now on metoprolol and captopril
   - uptitrate as tolerated by BPs
   # Hyperlipidemia: restart atorvastatin
   # Hypothyroidism: restart levothyroxiine
   # Urinary Incontinence: restart  tolterodine while Foley
   ICU Care
   Nutrition: cardiac healthy diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-10-19**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2181-10-21 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2181-10-21**] 04:00 AM
   > stable oxygenation overnight
   > completed cipro course
   > stopped Lasix gtt, added back captopril and metop
   Allergies:
   Metronidazole
   malaise;
   Morphine
   confusion/paran
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   confusion
   para
   Last dose of Antibiotics:
   Ciprofloxacin - [**2181-10-19**] 03:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-21**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 79 (74 - 87) bpm
   BP: 100/24(42) {98/22(42) - 127/91(97)} mmHg
   RR: 26 (19 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                    269 mL
                  PO:
                                                                    150 mL
                  TF:
   IVF:
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    195 mL
   Urine:
                                                                  1,465 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   RR (Spontaneous): 25
   FiO2: 40%
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   262 K/uL
   119 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.7 mEq/L
   27 mg/dL
   93 mEq/L
   141 mEq/L
   26.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2181-10-18**]  03:03 AM
                             [**2181-10-18**]  04:12 PM
                             [**2181-10-18**]  11:22 PM
                             [**2181-10-19**]  05:10 AM
                             [**2181-10-19**]  06:52 AM
                             [**2181-10-19**]  09:02 AM
                             [**2181-10-19**]  04:57 PM
                             [**2181-10-20**]  04:38 AM
                             [**2181-10-20**]  04:36 PM
                             [**2181-10-21**]  04:21 AM
   WBC
   9.3
   9.4
   7.5
   7.9
   Hct
   25.1
   27.0
   27.7
   26.5
   Plt
   [**Telephone/Fax (3) 8455**]62
   Cr
   1.0
   0.9
   0.9
   0.9
   1.1
   1.1
   1.0
   TropT
   0.11
   TCO2
   36
   37
   35
   Glucose
   117
   105
   116
   124
   133
   119
   Other labs: PT / PTT / INR:14.3/29.9/1.2, CK / CKMB /
   Troponin-T:78//0.11, Differential-Neuts:83.8 %, Lymph:11.9 %, Mono:3.9
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.8 mg/dL
   CXR [**10-21**]: no signif changes from prev CXR, has chronic b/l pleural
   effusions.
   Assessment and Plan
 .H/O PULMONARY EDEMA [**2-26**] Diastolic dysfunction:
   -Goal even for the day: increasing BUN, she is probably dry at this
   point
    - Titrate up the beta blocker and ACE as she tolerates
   - wean FiO2 as tolerated
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB);
   hct stable currently
UTI: Completed course of Abx.
   Remaining issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2181-10-19**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes